US04186135
84 g of 1-cyclohexyl-3-aminopyrrolidine, 430 ml of chloroform and 146 g of 7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride were introduced into a balloon flask provided with an agitator and a thermometer. After agitation of the mixture, the base was extracted with methylene chloride and then the solvent was evaporated. The crystals formed were dissolved in boiling absolute alcohol and the resulting solution was filtered on carbon black. The crystals produced after cooling were dissolved in a solution of acetic acid in water and then the solution was filtered over carbon black and the base was reprecipitated by the addition of 20% ammonia. 129.5 g of N-(1-cyclohexyl-3-pyrrolidyl)-7-methylsulfamoyl-1,4-benzodioxane-5-carboxamide was produced (M.P.: 160°-161° C.; yield: 61.2%).

reactant | 1-cyclohexyl-3-aminopyrrolidine | 84 g | C1(CCCCC1)N1CC(CC1)N | C10H20N2
reactant | chloroform | 430 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride | 146 g | CNS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C10H10ClNO5S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(1-cyclohexyl-3-pyrrolidyl)-7-methylsulfamoyl-1,4-benzodioxane-5-carboxamide | 129.5 g, yield: 61.2% | C1(CCCCC1)N1CC(CC1)NC(=O)C1=CC(=CC=2OCCOC21)S(NC)(=O)=O | C20H29N3O5S
